US06797823B1
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-propylurea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline (100 mg) was dissolved in toluene (10 ml). and triethylamine (2 ml), and a solution of triphosgene (104 mg) in dichloromethane was then added to the solution. The mixture was heated under reflux for 5 min. Next, propylamine (29 mg) was added, and the mixture was heated under reflux for 40 min. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography on silica gel by development with chloroform/methanol (10/1) to give 89 mg (yield 71%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)F | C17H15FN2O3
reactant | triphosgene | 104 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | propylamine | 29 mg | C(CC)N | C3H9N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-propylurea | 89 mg, yield 71% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NCCC)F | C21H22FN3O4
